US08017607B2
To a mixture of rac-4-{2-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetylamino}-methyl-benzoic acid methyl ester (50.0 mg, 0.08 mmol) in THF/MeOH (0.6 mL/0.2 mL) was added 2 N LiOH (0.2 mL), and the reaction mixture was stirred at rt for 2 hrs. The reaction mixture was concentrated and quenched with 2 NH2SO4, extracted with EtOAc, and washed with water, brine. The organic phase was separated, and dried over Na2SO4. The mixture was then concentrated to give rac-4-{2-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetylamino}-methyl-benzoic acid (48.8 mg, 99.8%). HRMS (ES+) m/z Calcd for C32H31Cl2F2N3O3+H [(M+H): 614.1784; Found: 614.1783.

reactant | rac-4-{2-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetylamino}-methyl-benzoic acid methyl ester | 0.08 mmol, 50.0 mg | COC(C1=C(C=C(C=C1)NC(CN1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)=O)C)=O | C33H33Cl2F2N3O3
reactant | LiOH | 2 N, 0.2 mL | [Li+].[OH-]
solvent | THF MeOH | 0.6 mL | C1CCOC1.CO
product | rac-4-{2-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetylamino}-methyl-benzoic acid | 48.8 mg, 99.8% | ClC=1C(=C(C=CC1)[C@H]1N(C[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)CC(=O)NC1=CC(=C(C(=O)O)C=C1)C)F | C32H31Cl2F2N3O3
